Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
morphine
 
Attending: ___
 
Chief Complaint:
L arm numbness and paraesthesias
 
Major Surgical or Invasive Procedure:
___ ADCF C5-6

 
History of Present Illness:
Ms. ___ is a ___
female who presents with signs and symptoms of C6 radiculopathy
and spinal cord compression.

She has numbness in her left arm and paresthesias in the C6
distribution.  She also noticed progressive weakness and 
numbness
in her right hand.  She dropped things and has decreased fine
motor movement.  Her left hand is more symptomatic than her 
right
hand that she can comment on changing in writing.  She reports
symptoms consistent with Lhermitte's sign.  She has some
paresthesias in her neck, but this could be off different 
origin.

 
Past Medical History:
SURGICAL HISTORY:  Positive for multiple surgeries including
C-section, hand, leg and wrist surgery.

PAST MEDICAL HISTORY:  Positive for hyperlipemia and
hypertension.

 
Social History:
___
Family History:
NC
 
Physical Exam:
On Discharge:
A&Ox3, + pain to bilateral shoulders, Inc cd&i open to air with 
dermabond, Strength ___ throughout, sensation grossly intact.
 
Brief Hospital Course:
___ y/o F with L arm numbness and paraesthesias presents for 
elective ACDF C5-6. She was taken to the OR on ___ with no 
intraoperative complications. She was placed in a hard cervical 
collar post op and extubated and transferred to the PACU for 
recovery. On post operative examination, patient was full 
strength in all 4 extremities. She was straight cathed overnight 
for urinary retention. On ___, the patient reported bilateral 
shoulder pain and L grip 4+/5, otherwise intact. Her hard collar 
remains in place. She was lethargic and the valium was 
discontinued. Flexeril was added. On ___, patient more alert 
and requesting to be discharged. She was discharged in stable 
condition.
 
Medications on Admission:
albuterol, flexeril, diclofenac potassium, gabapentin, 
methadone, spiriva

 
Discharge Medications:
1. Albuterol Inhaler ___ PUFF IH Q6H:PRN SOB/wheezing 
2. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0
3. Gabapentin 600 mg PO TID 
4. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth every 
four (4) hours Disp #*90 Tablet Refills:*0
5. Methadone 10 mg PO BID 
6. Tiotropium Bromide 1 CAP IH DAILY SOB/wheezing 
7. Cyclobenzaprine 10 mg PO TID:PRN muscle spasm 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
C5-6 disc herniation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
•       Your incision was closed with dermabond. 
•Do not smoke.
•No tub baths or pool swimming for two weeks from your date of 
surgery.
•No pulling up, lifting more than 10 lbs., or excessive bending 
or twisting.
•Limit your use of stairs to ___ times per day.
•Have a friend or family member check your incision daily for 
signs of infection.
•**If you are required to wear one, wear your cervical collar 
as instructed.
•You may shower briefly without the collar on if you are 
sitting and not as risk of falling in the tub or shower.
•Take your pain medication as instructed; you may find it best 
if taken in the morning when you wake-up for morning stiffness, 
and before bed for sleeping discomfort. This medication is as 
needed for pain, you do not need to take it if you have no pain.
•Do not take any anti-inflammatory medications such as Motrin, 
Advil, Aspirin, and Ibuprofen etc for 2 weeks.
•Increase your intake of fluids and fiber, as pain medicine 
(narcotics) can cause constipation. We recommend taking an over 
the counter stool softener, such as Docusate (Colace) while 
taking narcotic pain medication.
•Clearance to drive and return to work will be addressed at 
your post-operative office visit.

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING:

•Pain that is continually increasing or not relieved by pain 
medicine.
•Any new or worsening weakness, numbness, or tingling in your 
extremities.
•Any signs of infection at the wound site: redness, swelling, 
tenderness, and drainage.
•Fever greater than or equal to 101.5 degrees Farenheit
•Loss of control of bowel or bladder functioning.
•Decreasing ability to swallow solids or liquids.

 
Followup Instructions:
___